US07531532B2
Morpholine-4-carboxylic acid {4-[2-methyl-4-(3-phenylacetylthioureido)phenoxy]pyridin-2-yl}amide
To a solution of 2-phenylacetyl chloride (0.0523 ml) in acetonitrile (5.0 ml) was added potassium thiocyanate (35.6 mg), followed by stirring under a nitrogen atmosphere at 50° C. for 1 hr. The reaction mixture was cooled down to room temperature, and then morpholine-4-carboxylic acid [4-(4-amino-2-methylphenoxy)pyridine-2-yl]amide (80 mg) and N,N-dimethylformamide (1 ml) were added thereto, followed by stirring under a nitrogen atmosphere at room temperature for 21 hrs. The reaction mixture was partitioned between ethyl acetate (100 ml) and water (40 ml). The organic layer was washed with brine, and dried over anhydrous sodium sulfate. The solvent was evaporated to give a residue, which was then purified by silica gel column chromatography (eluent; ethyl acetate). Fractions containing the target compound were concentrated to give a solid, which was suspended in diethyl ether (4 ml)-ethanol (0.8 ml). The solid was filtered off, washed with diethyl ether, and dried under aeration to provide the titled compound (38 mg, 31%) as colorless powder.

reactant | 2-phenylacetyl chloride | 0.0523 ml | C1(=CC=CC=C1)CC(=O)Cl | C8H7ClO
reactant | potassium thiocyanate | 35.6 mg | [S-]C#N.[K+]
reactant | morpholine-4-carboxylic acid [4-(4-amino-2-methylphenoxy)pyridine-2-yl]amide | 80 mg | NC1=CC(=C(OC2=CC(=NC=C2)NC(=O)N2CCOCC2)C=C1)C | C17H20N4O3
reactant | N,N-dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
solvent | acetonitrile | 5.0 ml | C(C)#N | C2H3N
solvent | diethyl ether | 4 ml | C(C)OCC | C4H10O
solvent | ethanol | 0.8 ml | C(C)O | C2H6O
product | Morpholine-4-carboxylic acid {4-[2-methyl-4-(3-phenylacetylthioureido)phenoxy]pyridin-2-yl}amide | 38 mg, 31% | CC1=C(OC2=CC(=NC=C2)NC(=O)N2CCOCC2)C=CC(=C1)NC(=S)NC(CC1=CC=CC=C1)=O | C26H27N5O4S
